US04639420
Pure cholesterol epoxides are not generally available from commercial sources, so they were synthesized from cholesterol. Analytical grade cholesterol, purified through the dibromide, was employed in these syntheses. Cholesterol 5α,6α-epoxide was synthesized by the procedure of Fieser, L. F. and Fieser, M., in "Reagents for Organic Synthesis," Vol. 1, 1967 John Wiley, New York, p. 136. Cholesterol (50 mmol) in methylene chloride (75 ml) solution was treated at 25° C. over a 30 minute interval with m-chloroperbenzoic acid (54 mmol) in methylene chloride (120 ml) solution. Excess peracid was destroyed by the addition of 10% sodium sulfite. Extraction of the organic layer with 5% aqueous sodium bicarbonate, water, and finally with saturated aqueous sodium chloride, followed by drying and evaporation produced a crude product readily purified by recrystallization from 88% aqueous acetone or by silica gel chromatography. Cholesterol 5α,6α-epoxide (>95% purity, m.p. 142°-143°) was obtained in >90% yield.

reactant | cholesterol | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
reactant | Cholesterol | 50 mmol | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
reactant | m-chloroperbenzoic acid | 54 mmol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | Cholesterol 5α,6α-epoxide | C[C@H](CCCC(C)C)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2C[C@H]4[C@@]5([C@@]3(CC[C@@H](C5)O)C)O4)C | C27H46O2
